US08614206B2
To a cooled solution (ice water bath) of di-tert-butyl 6-oxo-1,4-diazepane-1,4-dicarboxylate (570 mg, 1.82 mmol) in THF (10 mL), was added dropwise a solution of methylmagnesium bromide (3 M in Et2O, 0.79 mL, 2.36 mmol). The mixture was allowed to warm to room temperature and stirred for 16 hr. Aqueous saturated ammonium chloride solution (5 mL) was added and the mixture diluted with EtOAc (30 mL) and water (30 mL). The layers were separated and the organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (0-70% EtOAc/isohexane) gave di-tert-butyl 6-hydroxy-6-methyl-1,4-diazepane-1,4-dicarboxylate as an oil (0.45 g). To a solution of this oil (0.45 g, 1.36 mmol) in MeOH (2 mL), was added HCl in 1,4-dioxane (4 M, 6.8 mL, 27.3 mmol) and the solution was stirred at room temperature for 16 hr. The solvents were removed under reduced pressure. The residue was dissolved in MeOH and passed through an SCX column washing with MeOH and eluting with 1 N ammonia in MeOH. The solvent was removed under reduced pressure to afford 6-methyl-1,4-diazepan-6-ol as an oil. To this amine in EtOH (3 mL) was added 5-chloro-1-methyl-4-nitro-1H-pyrazole from Example 1 (209 mg, 1.29 mmol) and DIPEA (0.9 mL, 5.44 mmol) and the mixture was heated in the microwave at 130° C. for 3 hr. The solvent was removed under reduced pressure. To the crude tert-butyl 6-hydroxy-6-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate in DCM (10 mL) was added di-tert-butyl dicarbonate (1.18 g, 5.44 mmol) and DIPEA (0.9 mL, 5.44 mmol). The mixture was stirred at room temperature for 16 hr, the solvent was removed under reduced pressure and the residue dissolved in DCM (30 mL). Water (20 mL) was added and the organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-80% EtOAc/isohexane) gave tert-butyl 6-hydroxy-6-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate (235 mg, 22% over four steps) as yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 4.16-3.79 (m, 7H), 3.52-2.81 (m, 4H), 1.70-1.80 (br s, 1H), 1.51 (s, 9H), 1.16 (s, 3H).

reactant | di-tert-butyl 6-oxo-1,4-diazepane-1,4-dicarboxylate | 1.82 mmol, 570 mg | O=C1CN(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H26N2O5
reactant | methylmagnesium bromide | 2.36 mmol, 3 M, 0.79 mL | C[Mg]Br
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | water | 30 mL | O | H2O
product | di-tert-butyl 6-hydroxy-6-methyl-1,4-diazepane-1,4-dicarboxylate | 0.45 g | OC1(CN(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C16H30N2O5
